US05710139
A solution of 6-chloro-3-(dimethylphosphonomethyl)-2-methylquinoline (0.85 g, 2.7 mmol) in carbon tetrachloride (40 ml) was treated with benzoyl peroxide (100 mg) followed by N-bromosuccinimide (0.50 g, 2.8 mmol). The reaction mixture was refluxed for 4 hours, filtered and concentrated in vacuo. The residue was flash chromatographed on silica gel with ethyl acetate as the eluent to give 0.75 g of 2-bromomethyl-6-chloro-3-(dimethylphosphonomethyl)quinoline.

reactant | 6-chloro-3-(dimethylphosphonomethyl)-2-methylquinoline | 2.7 mmol, 0.85 g | ClC=1C=C2C=C(C(=NC2=CC1)C)CP(=O)(OC)OC | C13H15ClNO3P
reactant | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 2.8 mmol, 0.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-6-chloro-3-(dimethylphosphonomethyl)quinoline | 0.75 g | BrCC1=NC2=CC=C(C=C2C=C1CP(=O)(OC)OC)Cl | C13H14BrClNO3P
